US08008303B2
3-Bromo-4-methoxy-N-(4-morpholin-4-yl-phenyl)-benzamide
A mixture of 3-bromo-4-methoxy-benzoic acid (500 mg), N-(4-aminophenyl)morpholine (385 mg), EDAC (828 mg), HOBT (583 mg) and N-methylmorpholine (714 μl) in DMF (5 ml) was stirred at room temperature for 18 h. The mixture was then diluted with water (30 ml) and the resulting solid collected by filtration and dried (818 mg)

reactant | 3-bromo-4-methoxy-benzoic acid | 500 mg | BrC=1C=C(C(=O)O)C=CC1OC | C8H7BrO3
reactant | N-(4-aminophenyl)morpholine | 385 mg | NC1=CC=C(C=C1)N1CCOCC1 | C10H14N2O
reactant | EDAC | 828 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 583 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 714 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 3-Bromo-4-methoxy-N-(4-morpholin-4-yl-phenyl)-benzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)N2CCOCC2)C=CC1OC | C18H19BrN2O3
